US05760274
A 2 L glass resin kettle was fitted with an overhead stirrer, glass thermocouple well, and a 15 cm (6 inch) 24/40 U-connector tube wrapped with an electrical heating tape and set at a 120° to 150° C. skin temperature. The U-connector tube was attached to a 1 L, 3-necked, round bottom flask fitted with an air condenser, which was used as a sublimate trap to a stop the easily sublimed product. To this was added either 1.1 eq. (first two runs) or 1.0 eq. (last three runs) NH4Cl, 7.50 g MgO (0.5 wt % based on the PCBTC) and 1500 g of 99 wt % PCBTC. The kettle was heated with a mantle to 220° C. The temperature was controlled using an Instruments for Research and Industry "Therm-O-Watch" model L11-1500 temperature controller with a K-type thermocouple. Samples were removed periodically and were analyzed by gas chromatograph (GC). Because p-chlorobenzoylchloride (PCBOC) has the same boiling point as PCBN but a slower reaction rate, the reaction was continued until all of the PCBOC had been consumed. In general, when less than 5 wt % of PCBTC remained (after 15 to 20 hours of reaction at 220° C.) the 1 L sublimate receiver was exchanged for a clean one and the product was up and over distilled. After cooling the reactor, it was recharged with the sublimate from the previous run, NH4Cl, and PCBTC, and the sequence was repeated. In this manner, 7 kg of PCBTC gave a 90.5 wt % isolated yield of PCBN with an average purity of 97 wt % by GC area%.

reactant | NH4Cl | 1.0 eq. | [NH4+].[Cl-]
reactant | PCBOC | ClC1=CC=C(C(=O)Cl)C=C1 | C7H4Cl2O
product | PCBN | C1=CC(=CC=C1C#N)Cl | C7H4ClN
